US08871774B2
To a solution of (1R,3S)-ethyl 3-aminocyclohexanecarboxylate, 18, (5.1 g, 24.1 mmol) and 2,4-dichloro-5-fluoropyrimidine (6.0 g, 36.0 mmol) in THF (60 mL) was added diisopropylethylamine (9.6 mL, 55.4 mmol). The mixture was heated to reflux overnight. The reaction was cooled to room temperature and concentrated in vacuo. The residue was diluted with water and extracted twice with ethyl acetate. The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (0-40% EtOAc/hexanes gradient) to provide 6.7 g of (1R,3S)-ethyl 3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylate as a white solid: LCMS RT=3.1 (M+H) 302.2.

reactant | (1R,3S)-ethyl 3-aminocyclohexanecarboxylate | N[C@@H]1C[C@@H](CCC1)C(=O)OCC | C9H17NO2
reactant | 2,4-dichloro-5-fluoropyrimidine | 36.0 mmol, 6.0 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | diisopropylethylamine | 55.4 mmol, 9.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (1R,3S)-ethyl 3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylate | 6.7 g | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)C(=O)OCC)F | C13H17ClFN3O2
